US06352993B1
5,6dimethyl-2-(4-fluorophenylamino)-4-{1-methyl-6-(1-piperidineacetoxy)-1,2,3,4-tetrahydroisoquinolin-2-yl}pyrimidine dihydrochloride
The same procudures as in Example 167 were repeated using 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(50 mg, 0.132 mmol), 1-hydroxybenzotriazole(26.8 mg, 0.198 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide(32.9 mg, 0.171 mmol), 1-piperidineacetic acid hydrochloride (28.5 mg, 0.158 mmol), and triethylamine(46 μl, 0.330 mmol) to afford the titled compound.

reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.132 mmol, 50 mg | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)O)C | C22H23FN4O
reactant | 1-hydroxybenzotriazole | 0.198 mmol, 26.8 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.171 mmol, 32.9 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-piperidineacetic acid hydrochloride | 0.158 mmol, 28.5 mg | Cl.N1(CCCCC1)CC(=O)O
reactant | triethylamine | 0.330 mmol, 46 μl | C(C)N(CC)CC | C6H15N
product | 5,6dimethyl-2-(4-fluorophenylamino)-4-{1-methyl-6-(1-piperidineacetoxy)-1,2,3,4-tetrahydroisoquinolin-2-yl}pyrimidine dihydrochloride | Cl.Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)OC(CN1CCCCC1)=O)C | InChI=1S/C29H34FN5O2.2ClH/c1-19-20(2)31-29(32-24-9-7-23(30)8-10-24)33-28(19)35-16-13-22-17-25(11-12-26(22)21(35)3)37-27(36)18-34-14-5-4-6-15-34;;/h7-12,17,21H,4-6,13-16,18H2,1-3H3,(H,31,32,33);2*1H
